US07112673B2
g) 10-Methoxy-dibenzo[b,f]azepine-5-carboxylic acid amide
Acetic acid (150 mL) is added dropwise to a stirred mixture of 10-methoxy-5H-dibenzo[b,f]azepine (25.0 g, 112 mmol) and NaOCN (9.25 g, 142 mmol) under a nitrogen atmosphere at room temperature. After stirring for 7 hours the resulting yellow suspension of the title compound (>95% area of the compound by HPLC) is used for synthesis of 10-oxo-10,11-dihydro-dibenzo[b,f]azepine-S-carboxylic acid amide. The title compound can be isolated by adding 1N NaOH to a pH of ≧8 followed by extraction with toluene. Drying of the combined organic layers and concentration in vacuo yields the title compound as a light yellow solid (yield≧75%).

reactant | 10-methoxy-5H-dibenzo[b,f]azepine | 112 mmol, 25.0 g | COC1=CC2=C(NC3=C1C=CC=C3)C=CC=C2 | C15H13NO
reactant | NaOCN | 142 mmol, 9.25 g | O([Na])C#N
solvent | Acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 10-Methoxy-dibenzo[b,f]azepine-5-carboxylic acid amide | COC1=CC2=C(N(C3=C1C=CC=C3)C(=O)N)C=CC=C2 | C16H14N2O2
